US07846954B2
Synthesized according to General Procedure 10. To a solution of (R)-3-hydroxy-1-phenylpyrrolidin-2-one (822 mg, 4.64 mmol) and DIEA (1.50 g, 2.02 mL, 11.59 mmol) in DCM (10 mL) at −20° C. was added triflic anhydride (1.57 g, 936 μL, 5.56 mmol) and the reaction mixture was stirred at this temperature for 20 min. A solution of (R)-3-(3,5-dichlorophenyl)pyrrolidine (835 mg, 3.86 mmol) in DCM (6 mL) was added and the reaction mixture was stirred at −20° C. for 1 hour. The reaction mixture was poured into water and extracted with EtOAc (3×). The combined organic extracts were washed with water (2×), brine, dried (Na2SO4) and evaporated to dryness. Purification by silica gel chromatography (30-60% EtOAc in hexane) gave (3R,3′S)-3-(3,5-dichlorophenyl)-1′-phenyl-1,3′-bipyrrolidin-2′-one as an oil that solidified upon standing (0.9 g, 62%). 1H-NMR (400 MHz, DMSO-d6) δ 7.67 (d, J=8.0 Hz, 2H), 7.42-7.36 (m, 5H), 7.15 (t, J=7.3 Hz, 1H), 3.77 (m, 2H), 3.52 (t, J=8.7 Hz, 1H), 3.05-2.98 (m, 4H), 2.88 (m, 1H), 2.31-2.23 (m, 2H), 2.06 (m, 1H) and 1.77-1.74 (m, 1H) ppm. LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA), m/z: M+1 obs=375.5; tR=1.35 min.

reactant | (R)-3-hydroxy-1-phenylpyrrolidin-2-one | 4.64 mmol, 822 mg | O[C@H]1C(N(CC1)C1=CC=CC=C1)=O | C10H11NO2
reactant | DIEA | 11.59 mmol, 2.02 mL, 1.50 g | CCN(C(C)C)C(C)C | C8H19N
reactant | triflic anhydride | 5.56 mmol, 936 μL, 1.57 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | (R)-3-(3,5-dichlorophenyl)pyrrolidine | 3.86 mmol, 835 mg | ClC=1C=C(C=C(C1)Cl)[C@@H]1CNCC1 | C10H11Cl2N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | (3R,3′S)-3-(3,5-dichlorophenyl)-1′-phenyl-1,3′-bipyrrolidin-2′-one | ClC=1C=C(C=C(C1)Cl)[C@@H]1CN(CC1)[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C20H20Cl2N2O
